US07935696B2
Methyl 3-(5-bromothiophene-2-carboxamido)-4-methylbenzoate
Compound a was prepared by coupling 5-bromothiophene-2-carboxylic acid with commercially available methyl 3-amino-4-methylbenzoate using the method described in Example 128 to afford a white solid in 88% yield. HPLC Ret time=3.25 min. LCMS [M+H]+ 355.2.

reactant | 5-bromothiophene-2-carboxylic acid | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | methyl 3-amino-4-methylbenzoate | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
product | Methyl 3-(5-bromothiophene-2-carboxamido)-4-methylbenzoate | 88% yield | BrC1=CC=C(S1)C(=O)NC=1C=C(C(=O)OC)C=CC1C | C14H12BrNO3S
